US04298739
2.7 Grams of 6-(3-ethoxycarbonyl-2-methylpropoxy)carbostyril, 0.5 g of sodium ethylate and 5 ml of N-methyl-2-methylcyclohexylamine are added to 100 ml of ethanol, and the mixture is reacted in an autoclave under 110 atm. and at 140° to 150° C. for 6 hours. After cooling, the reaction solution is concentrated under reduced pressure and the residue is dissolved in 200 ml of chloroform, washed with a 1% aqueous K2CO3 solution, diluted hydrochloric acid and water in that order and then dried with anhydrous Na2SO4. The solvent is distilled off and the residue is refined by silica gel column chromatography (silica gel: Wakogel C-200; eluent: 20/1 (V/V) chloroform-methanol) and the obtained crude crystals are recrystallized from benzene-ligroin, resultantly obtaining 1.0 g of 6-{3-[N-methyl-N-(2-methylcyclohexyl)aminocarbonyl]-2-methylpropoxy}carbostyril in the form of colorless needle-like crystals with melting point of 146°-149° C.

reactant | 6-(3-ethoxycarbonyl-2-methylpropoxy)carbostyril | C(C)OC(=O)CC(COC=1C=C2C=CC(NC2=CC1)=O)C | C16H19NO4
reactant | sodium ethylate | 0.5 g | CC[O-].[Na+]
reactant | N-methyl-2-methylcyclohexylamine | 5 ml | CNC1C(CCCC1)C | C8H17N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-{3-[N-methyl-N-(2-methylcyclohexyl)aminocarbonyl]-2-methylpropoxy}carbostyril | 1.0 g | CN(C(=O)CC(COC=1C=C2C=CC(NC2=CC1)=O)C)C1C(CCCC1)C | C22H30N2O3
